US06313312B1
N-(3-{3-[3-(5-Fluoro-3-methyl-1H-indol-2-yl)propanoyl]-6-methyl-3-azabicyclo[3.1.0]hex-6-yl}phenyl)methanesulfonamide
To a solution of 3-(5-fluoro-3-methyl-1H-indol-2-yl)propanoic acid (prepared according to the method described in EP 510398 A2, 200 mg, 0.90 mmol) in N,N-dimethylformamide (20 ml) was added 1-hydroxybenzotriazole monohydrate (154 mg, 1.00 mmol) and 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (262 mg, 1.36 mmol). After stirring at room temperature for 10 min, the mixture was treated with the hydrochloride salt of N-13-(6-methyl-3-azabicyclo[3.1.0]hex-6-yl)phenyl]methanesulfonamide (Preparation 53, 308 mg, 0.90 mmol) and sodium hydrogen carbonate (150 mg, 1.80 mmol). The reaction mixture was stirred at room temperature overnight before concentrating in vacuo. Water (15 ml) was added and the reaction mixture was extracted with ethyl acetate (2×20 ml). The combined organic extracts were washed with water (15 ml), dried (MgSO4), and concentrated in vacuo to afford 350 mg of a brown viscous oil which was not purified further.

reactant | 3-(5-fluoro-3-methyl-1H-indol-2-yl)propanoic acid | FC=1C=C2C(=C(NC2=CC1)CCC(=O)O)C | C12H12FNO2
reactant | 1-hydroxybenzotriazole monohydrate | 1.00 mmol, 154 mg | O.ON1N=NC2=C1C=CC=C2
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 1.36 mmol, 262 mg | Cl.CN(CCCN=C=NCC)C
reactant | methanesulfonamide | 0.90 mmol, 308 mg | CS(=O)(=O)N | CH5NO2S
reactant | sodium hydrogen carbonate | 1.80 mmol, 150 mg | C(O)([O-])=O.[Na+]
reactant | N,N-dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | N-(3-{3-[3-(5-Fluoro-3-methyl-1H-indol-2-yl)propanoyl]-6-methyl-3-azabicyclo[3.1.0]hex-6-yl}phenyl)methanesulfonamide | 350 mg | FC=1C=C2C(=C(NC2=CC1)CCC(=O)N1CC2C(C2C1)(C)C=1C=C(C=CC1)NS(=O)(=O)C)C | C25H28FN3O3S
